US05545651
Part A. Preparation of Ethyl 4-(t-butyldimethylsilyloxy)-2-butynoate
To a solution/suspension of 2.0 g of 4-(t-butyldimethylsilyloxy)-2-butynoic acid and 1.48 g Na2CO3 in 37 mL DMF under N2 was added slowly 1.58 mL Et2SO4. After stirring overnight, the reaction was diluted with EtOAc and washed several times with H2O. The organic extract was then washed with brine and dried over MgSO4. Filtration, evaporation and flash chromatography with a 5%-10% Et2O/hexanes gradient provided 1.58 g of pure product.

reactant | 4-(t-butyldimethylsilyloxy)-2-butynoic acid | 2.0 g | [Si](C)(C)(C(C)(C)C)OCC#CC(=O)O | C10H18O3Si
reactant | Na2CO3 | 1.48 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DMF | 37 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 4-(t-butyldimethylsilyloxy)-2-butynoate | 1.58 g | [Si](C)(C)(C(C)(C)C)OCC#CC(=O)OCC | C12H22O3Si
